US07612114B2
(R)-6-{2-{Ethyl[3-fluoro-4-(piperidin-4-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 4-(2-fluoro-4-formylphenoxy)piperidine-1-carboxylic acid tert-butyl ester (75 mg) according to an analogous synthetic method to Example 238 and purified by LC-MS, the title compound (5.1 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)NC1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 4-(2-fluoro-4-formylphenoxy)piperidine-1-carboxylic acid tert-butyl ester | 75 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)C=O)F | C17H22FNO4
product | (R)-6-{2-{Ethyl[3-fluoro-4-(piperidin-4-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 5.1 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OC1CCNCC1)F | C31H37FN2O3
